US06004982
A solution of 4-(aminomethyl)pyridine (54.1 g, 0.5 mol) and ethyl formate (44.4 ml) was refluxed for two hours and then permitted to stand at ambient temperature for 16 hours. The reaction was distilled to produce 61.6 g of N-(4-pyridylmethyl)formamide.

reactant | 4-(aminomethyl)pyridine | 0.5 mol, 54.1 g | NCC1=CC=NC=C1 | C6H8N2
reactant | ethyl formate | 44.4 ml | C(=O)OCC | C3H6O2
product | N-(4-pyridylmethyl)formamide | 61.6 g | N1=CC=C(C=C1)CNC=O | C7H8N2O
